US06013662
0.8 g of magnesium turnings was added to a solution of 7.2 g of 4-(trifluoromethyl)bromobenzene in 40 cm3 of dry diethyl ether. The reaction mixture was spontaneously brought to reflux for ten minutes and was then heated at reflux for twenty minutes. The reaction mixture was subsequently cooled and a solution of 5.6 g of methyl(3aRS,4SR,7aRS)-2-benzyl-7-oxo-4-phenyloctahydroisoindole-3a-carboxylate in 40 cm3 of dry diethyl ether was added over fifteen minutes at a temperature in the region of 10° C. The reaction mixture was stirred for ten minutes at a temperature in the region of 10° C. and then poured into 150 cm3 of a saturated aqueous ammonium chloride solution. The aqueous phase was separated by settling and extracted with three times 75 cm3 of diethyl ether. The organic phases were combined, washed successively with three times 75 cm3 of distilled water, dried over magnesium sulphate in the presence of 3S charcoal and concentrated under reduced pressure. After crystallization from 25 cm3 of pentane, 5.2 g of methyl(3aRS,4SR,7RS,7aRS)-2-benzyl-7-hydroxy-7-[4-(trifluoromethyl)phenyl]-4-phenyloctahydroisoindole-3a-carboxylate were obtained in the form of a beige solid, the characteristic of which was as follows:

reactant | magnesium | 0.8 g | [Mg] | Mg
reactant | 4-(trifluoromethyl)bromobenzene | 7.2 g | FC(C1=CC=C(C=C1)Br)(F)F | C7H4BrF3
reactant | methyl(3aRS,4SR,7aRS)-2-benzyl-7-oxo-4-phenyloctahydroisoindole-3a-carboxylate | 5.6 g | COC(=O)C12CN(CC2C(CCC1C1=CC=CC=C1)=O)CC1=CC=CC=C1 | C23H25NO3
reactant | ammonium chloride | 150 cm3 | [Cl-].[NH4+]
solvent | diethyl ether | 40 cm3 | C(C)OCC | C4H10O
solvent | diethyl ether | 40 cm3 | C(C)OCC | C4H10O
product | methyl(3aRS,4SR,7RS,7aRS)-2-benzyl-7-hydroxy-7-[4-(trifluoromethyl)phenyl]-4-phenyloctahydroisoindole-3a-carboxylate | 5.2 g | COC(=O)C12CN(CC2C(CCC1C1=CC=CC=C1)(C1=CC=C(C=C1)C(F)(F)F)O)CC1=CC=CC=C1 | C30H30F3NO3
